* Z:\mnt\design.r\spice\examples\1184F.asc
Q1 N005 N007 N010 0 FZT849
Q2 N006 N008 N010 0 FZT849
L1 N005 N003 20µ
L2 N003 N006 20µ
C1 N006 N005 .068µ
L3 N008 N007 1µ
V1 N004 0 28
L4 N001 N002 50m
R1 N002 N001 70K
L5 N010 N012 100µ
D1 N012 N004 1N5818
R2 N003 N009 220K
R3 N009 N010 100K
C3 N003 N009 1000p
R4 N011 N014 89.6K
D2 0 N012 1N5818
C4 N016 0 1µ
V2 N011 0 5
C5 N004 0 2.2µ
R5 N004 N008 500
XU1 0 N014 0 N016 0 N015 MP_01 MP_02 MP_03 MP_04 N013 N011 N003 N004 N009 N012 LT1184F
R6 N002 0 1G
R7 N001 0 1G
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m startup
K1 L1 L2 L3 L4 1
.lib LT1184F.sub
.backanno
.end
